US04904686
Methyl 3-hydroxy-5-(1-pyrazolyl)thiophene-2-carboxylate
Pyrazole (18 mmol) was added to a solution of 2-chloro-2-methoxycarbonylthiophene-3(2H)-one in acetic acid (10 ml). The mixture was allowed to stand at room temperature for 2 days and the precipitate filtered, m.p. 162°-164° C. (acetic acid).

reactant | Pyrazole | 18 mmol | N1N=CC=C1 | C3H4N2
reactant | 2-chloro-2-methoxycarbonylthiophene-3(2H)-one | ClC1(SC=CC1=O)C(=O)OC | C6H5ClO3S
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | Methyl 3-hydroxy-5-(1-pyrazolyl)thiophene-2-carboxylate | OC1=C(SC(=C1)N1N=CC=C1)C(=O)OC | C9H8N2O3S
